US05093370
1,10-Bis(dimethylamino)-4,7-decanediol
To a solution of 95 mg of 1,10-bis(dimethylamino)-4,7-decanedione in 3 ml of methanol was added 36 mg of sodium borohydride with ice-cooling, and the mixture was stirred for an hour, and after adding 5 ml of acetone, concentrated under a reduced pressure. After adding chloroform, the mixture was again concentrated under reduced pressure. After adding 5 ml of chloroform, the mixture was filtered to remove insoluble matter, concentrated under a reduced pressure, and further dried under a reduced pressure to obtain 79 mg of the title compound comprising Syn/Anti (1:1) mixture as a yellow oil.

reactant | 1,10-bis(dimethylamino)-4,7-decanedione | 95 mg | CN(CCCC(CCC(CCCN(C)C)=O)=O)C | C14H28N2O2
reactant | sodium borohydride | 36 mg | [BH4-].[Na+]
reactant | acetone | 5 ml | CC(=O)C | C3H6O
solvent | methanol | 3 ml | CO | CH4O
product | 1,10-Bis(dimethylamino)-4,7-decanediol | 79 mg | CN(CCCC(CCC(CCCN(C)C)O)O)C | C14H32N2O2
